US05352381
4-Cyanophenylboronic acid (7 g, 0.0476 m) was stirred and refluxed for 60 hours under nitrogen with 4-n-heptylthiobromobenzene (12.4 g, 0.0433 m), TTPP (0.9 g, 0.000783 m), 2 molar aqueous sodium carbonate (41 mls), toluene (86 mls) and industrial methylated spirit (20.5 mls). The mixture was then separated end extincted with toluene (2×10 mls) washed with water (100 mls) and dried over magnesium sulphate. The solvents were then evaporated off to give a brown solid products which was purified by column chromatography and recrystallisation from industrial methylated spirit. 4-Cyano-4'-heptylthiobiphenyl was produced (4.1 g, 100% HPCL, 30% yield melting point 64.4° C.).

reactant | 4-Cyanophenylboronic acid | 7 g | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | 4-n-heptylthiobromobenzene | 12.4 g | C(CCCCCC)SC1=CC=C(C=C1)Br | C13H19BrS
reactant | sodium carbonate | 2 molar, 41 mls | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 86 mls | C1(=CC=CC=C1)C | C7H8
product | 4-Cyano-4'-heptylthiobiphenyl | 30% yield | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)SCCCCCCC | C20H23NS
